US07476399B2
N-(4-methoxy-2-methylphenyl)isoindoline-2-carboxamide
To a solution of isoindoline (576 mg, 4.0 mmol) in dry 1,4-dioxane (20 mL) was added 4-methoxy-2-methylphenyl isocyanate (815 mg, 5.0 mmol) under argon at room temperature. The reaction mixture was then stirred at RT overnight. The solvent was evaporated under reduced pressure, and the residue was purified by chromatography on silica gel (EtOAc/hexanes: 1:1) to give the title compound (1.18 g, 84%) as a white solid.

reactant | isoindoline | 4.0 mmol, 576 mg | C1NCC2=CC=CC=C12 | C8H9N
reactant | 4-methoxy-2-methylphenyl isocyanate | 5.0 mmol, 815 mg | COC1=CC(=C(C=C1)N=C=O)C | C9H9NO2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-(4-methoxy-2-methylphenyl)isoindoline-2-carboxamide | 1.18 g, 84% | COC1=CC(=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1)C | C17H18N2O2
